US07067517B2
1-(6-Hydroxy-pyridin-3-yl)-pyrrolidine-2,5-dione
1-(6-Methoxy-pyridin-3-yl)-pyrrolidine-2,5-dione was dissolved in tetrahydrofuran and HCl-gas was bubbled into the solution for 5 minutes. The solvent was evaporated in vacuo and the residue was heated for 10 minutes at 180° C. in a pre-heated kugelrohr oven. After cooling to room temperature the residue was purified by flash column chromatography (SiO2), yielding the title compound (285 mg, 15% yield over two steps).

reactant | 1-(6-Methoxy-pyridin-3-yl)-pyrrolidine-2,5-dione | COC1=CC=C(C=N1)N1C(CCC1=O)=O | C10H10N2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(6-Hydroxy-pyridin-3-yl)-pyrrolidine-2,5-dione | 285 mg, 15% yield | OC1=CC=C(C=N1)N1C(CCC1=O)=O | C9H8N2O3
